US08809539B2
Pd/C (0.13 g) is added to a solution of 1-{4-[5-(2-fluoro-biphenyl-4-yl)-[1,2,4]oxadiazol-3-yl]-benzyl}-4-(morpholine-4-carbonyl)-piperidine-4-carboxylic acid benzyl ester (0.43 g, 0.0006 mol) in a mixture of ethyl acetate:tetrahydrofuran:ethanol (3:2:3, 45 mL). Hydrogen gas is bubbled through the reaction mixture under stirring at room temperature for 2 hrs. The reaction mixture is filtered through a celite bed, washed with MDC:MeOH (80:20, 100 mL) and the filtrate is concentrated under reduced pressure to get solid mass, which is purified by column chromatography (silica gel 230-400 mesh, MDC:MeOH 8:2) to get 1-{4-[5-(2-fluoro-biphenyl-4-yl)-[1,2,4]oxadiazol-3-yl]-benzyl}-4-(morpholine-4-carbonyl)-piperidine-4-carboxylic acid.

reactant | 1-{4-[5-(2-fluoro-biphenyl-4-yl)-[1,2,4]oxadiazol-3-yl]-benzyl}-4-(morpholine-4-carbonyl)-piperidine-4-carboxylic acid benzyl ester | 0.0006 mol, 0.43 g | C(C1=CC=CC=C1)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=CC=CC=C1)F)C(=O)N1CCOCC1 | C39H37FN4O5
solvent | ethyl acetate tetrahydrofuran ethanol | 45 mL | C(C)(=O)OCC.O1CCCC1.C(C)O
catalyst | Pd/C | 0.13 g | [Pd] | Pd
product | 1-{4-[5-(2-fluoro-biphenyl-4-yl)-[1,2,4]oxadiazol-3-yl]-benzyl}-4-(morpholine-4-carbonyl)-piperidine-4-carboxylic acid | FC1=C(C=CC(=C1)C1=NC(=NO1)C1=CC=C(CN2CCC(CC2)(C(=O)O)C(=O)N2CCOCC2)C=C1)C1=CC=CC=C1 | C32H31FN4O5
